US04425473
A solution of 176 g (1 mole) of triethyl orthopropionate and 96 g (1.2 moles) of pyridine in 1 l of carbon tetrachloride was placed in a 2 l flask and 160 g (1 mole) of bromine was slowly added over two hours to the solution under ice-cooling. The resultant reaction mixture was allowed to stand at room temperature for one day to form a precipitate, which was then filtered off. The filtrate was concentrated by evaporation of the solvent and the residue was subjected to distillation under reduced pressure to afford 206 g (81%) of 1,1,1-triethoxy-2-bromopropane with a boiling point of 85° C./13 mmHg.

reactant | triethyl orthopropionate | 1 mole, 176 g | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | pyridine | 1.2 moles, 96 g | N1=CC=CC=C1 | C5H5N
reactant | bromine | 1 mole, 160 g | BrBr | Br2
solvent | carbon tetrachloride | 1 l | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1,1,1-triethoxy-2-bromopropane | 206 g, 81% | C(C)OC(C(C)Br)(OCC)OCC | C9H19BrO3
